US07169952B2
To a one liter roundbottom flask equipped with a mechanical stirrer and a thermometer was added 104.5 grams (0.3 mole—1.0 equiv.) of 88.7% pure 1-(5-amino-2,4-dichlorophenyl)-4,5-dihydro-4-difluoromethyl-3-methyl-1,2,4-triazol-5(1H)-one, 52.6 grams (0.45 mole—1.5 equiv.) of methanesulfonyl chloride, 0.9 gram (0.012 mole—0.04 equiv.) of DMF, and 93 grams of toluene (% wt/wt. triazol-5(1H)-one to solvent—112%). Upon completion of addition, the reaction mixture was heated at about 148° C. for four hours. After this time, the reaction mixture was cooled to 95° C. and an additional 569 grams of toluene (% wt/wt. triazol-5(1H)-one to total solvent—15.8%) was added. Upon completion of addition, the reaction mixture was allowed to cool to ambient temperature and then stirred for about 18 hours. After this time, the reaction mixture was heated to 60° C. and then transferred to a second one-liter roundbottom flask equipped with a mechanical stirrer and a thermometer. Once the transfer was complete, the solution was heated to 85° C. and 490 mL of warm (85° C.) water were added. The resulting mixture was heated to 85° C. and stirred for 30 minutes. After this time, the organic layer was separated from the aqueous layer and an additional 490 mL of warm (85° C.) water was added. The resulting mixture was again heated to 85° C. and stirred for an additional 30 minutes. The organic layer was separated from the aqueous layer and allowed to cool to ambient temperature, and then stirred for about 48 hours. After this time, the reaction mixture was heated to 90° C. to effect dissolution and then cooled to 85° C. and stirred for 30 minutes. After this time, the reaction mixture was cooled to 20° C. during an eight hour period at a rate of 5° C./hour drop in temperature for the first four hours and then at a rate of 10° C./hour for the last four hours. In order to facilitate crystallization, about one (1) gram (about 1 wt %) of technical N-[2,4-dichloro-5-[4-(difluoromethyl)-4,5-diyhdro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl]phenyl]methane-sulfonamide was added at 70–75° C. during the eight hour cool down period. Once at the appropriate temperature, the organic layer was transferred into an appropriate centrifuge, where it was spun for 30 minutes to remove the mother liquor. The filter cake was washed with three 50 mL portions of cold toluene charged directly into the centrifuge. The mixture was spun for 30 minutes to remove the toluene wash. The filter cake was removed from the centrifuge and dried at 65° C./30 mm Hg for four hours, yielding 108.99 grams (85%) of 90.5% pure N-[2,4-dichloro-5-[4-(difluoromethyl)-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl]phenyl]methanesulfonamide.

reactant | 1-(5-amino-2,4-dichlorophenyl)-4,5-dihydro-4-difluoromethyl-3-methyl-1,2,4-triazol-5(1H)-one | 104.5 grams | NC=1C(=CC(=C(C1)N1N=C(N(C1=O)C(F)F)C)Cl)Cl | C10H8Cl2F2N4O
reactant | methanesulfonyl chloride | 52.6 grams | CS(=O)(=O)Cl | CH3ClO2S
reactant | toluene | 93 grams | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 569 grams | C1(=CC=CC=C1)C | C7H8
catalyst | DMF | 0.9 gram | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[2,4-dichloro-5-[4-(difluoromethyl)-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl]phenyl]methanesulfonamide | 108.99 grams | ClC1=C(C=C(C(=C1)Cl)N1N=C(N(C1=O)C(F)F)C)NS(=O)(=O)C | C11H10Cl2F2N4O3S
